US06777428B1
4-[3-(3,5-difluorobenzamidyl)benzoyl]-1-methylpiperidine
Beginning with 4-[3-aminobenzoyl]-1-methylpiperidine (25 mg, 0.115 mmol) and 3,5-difluorobenzoyl chloride (29 μL, 0.229 mmol) and mixing for 24 h, 46.1 mg (>100%) of the title compound were recovered.

reactant | 4-[3-aminobenzoyl]-1-methylpiperidine | 0.115 mmol, 25 mg | NC=1C=C(C(=O)C2CCN(CC2)C)C=CC1 | C13H18N2O
reactant | 3,5-difluorobenzoyl chloride | 0.229 mmol, 29 μL | FC=1C=C(C(=O)Cl)C=C(C1)F | C7H3ClF2O
product | 4-[3-(3,5-difluorobenzamidyl)benzoyl]-1-methylpiperidine | FC=1C=C(C(=O)NC=2C=C(C(=O)C3CCN(CC3)C)C=CC2)C=C(C1)F | C20H20F2N2O2
